Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
word finding difficulty
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ ___ female with a PMHx epilepsy (followed 
by Dr. ___ Dr. ___, migraines, anxiety, ADHD, 
fibromyalgia, herpes zoster, HL, recurrent UTIs s/p cystoscopy 
and urethral dilatation, and 3 miscarriages who presents with 
increased time spent sleeping, slurred speech, an episode of 
"gibberish," and forgetfulness. 

Today, Dr. ___ received a call from ___, the 
patient's mother. Per the telephone note, the patient has been 
staying with her mother due to marital problems. The patient has 
been somnolent, forgetful (e.g., has to rewatch a TV show, did 
not recall being at her mother's house). Dr. ___ 
to bring the patient to the ___ ED for "admission for 
evaluation of seizures versus medication effect versus 
depression" versus some other etiology. 

On interview, the patient incorrectly states that her seizures 
started last ___ per notes). The first event was 
witnessed by her husband; there was no antecedent aura, and she 
only recalls using a hair straightener beforehand and waking up 
on the floor feeling confused and nauseous afterward. Per 
patient, the husband told her she fell to the ground with blue 
lips, lost consciousness, and started shaking (unclear which 
side/limbs); the patient does not know the duration. She 
presented to a hospital (patient not sure which one; she thought 
perhaps ___ in notes), where they thought she the 
event was secondary to electrocution, per pt. She then had 
another event a week later while at work; she again does not 
recall the event, but her co-worker caught her before she fell 
to the ground, and she subsequently had LOC with shaking (limbs 
unknown, duration unknown) followed by confusion and nausea. 
Presented to ___, where she was stared on Keppra 
500mg BID. Per notes, she had four total events as of ___, 
but the patient did not recall having (or being told about) the 
other two. Was seen by Drs. ___ in ___ at 
which time Keppra was increased to 1g BID. Pt didn't recall a 
___ event documented in chart. The patient and her mother 
do mention to other events in ___ her mother noticed 
her lose consciousness while sitting on the couch with "flapping 
of her hands" lasting ___ minutes. The patient also had an 
episode of LOC on a train. The patient is aware that her memory 
is impaired, but she does not recall the speech difficulties 
that her mother ___ described (details below). When asked, the 
patient mentions that she has had multiple recent stressors 
(e.g., now living with parents instead of husband) but did not 
want to go into specifics. She says her mood is "fine," but her 
mother says it's low. She had a URI ___ weeks ago but no 
illnesses recently. No missed or extra doses of AEDS or other 
medications. No recent medication changes. Patient uses pillbox 
and has a list of medications to take. She has never had AMS 
with prior UTIs. No traumas or MVCs. She did drink 2 glasses of 
wine last night.

Her mother ___ says she is not sure whether the memory 
difficulties described in ___ ever resolved. Pt's husband 
asked for the patient to stay with her parents for the last 2 
days because pt has been acting "weird," but he did not provide 
specifics. Last night, at 5:30pm, the patient did not recall 
having slept at her parents house the night before. Then at 7pm, 
she had an episode of "gibberish" wherein she was using sounds 
but not intelligible words; this lasted 30 seconds. The patient 
does not recall the event. Then at 7;30pm, she had an argument 
with her sister; the patient did not recall having seen a movie 
that she has seen multiple times. The patient recalls the 
conversation with her sister, and she now recalls having seen 
the movie. Then, at 8pm, the patient announced she was going to 
bed; when her mother mentioned that it was only 8pm, the patient 
disagreed. Her mother also notes that ___ has been sleeping 
more than usual and has had intermittent slurred speech. She 
does not seem lethargic and does not fall asleep mid-sentence. 
There has been no further unusual behavior today. 

---
Of note, she called Dr. ___ in ___ regarding 
cognitive difficulties. At that time she reported ___ months of 
word finding difficulty occurring a few times a day, forgetting 
conversations, and forgetting clients she had met recently. Her 
Keppra had been increased (in ___ per ___ telephone 
note, in ___ per ___ telephone note) from 1g BID to 
1g/1.5g. The patient decreased the Keppra on her own to 1g BID. 
Denied any recent seizures a that time. Dr. ___ her 
symptoms might be due to the Keppra (less likely CPS), and she 
was continued on 1g BID. 

She again called the neurology clinic in ___ regarding 
memory loss. Per the telephone note: "She will have days where 
things are a 'blur.' Her friends and family have told her that 
she has been asking the same questions over and over and telling 
the same stories without realizing she has said them before. 
This has been present since ___, but the past few days, it has 
gotten worse and she is very anxious. For example, she does not 
recall going to the movies back and seeing a certain film back 
in ___, argued with her husband about it, but then later found 
the movie stub in her purse. Additionally, some people at work 
are saying she is slurring her words and having word-finding 
difficulty this week. She is drinking 2 glasses of wine at 
night, which is no increase for prior. She has been
taking Keppra 1g BID. She does not think she has been taking 
more
than 1 dose at a time, but she can't honestly say because her
memory is so poor ... She reports no seizures since ___. No
episodes of staring or lip smacking.  No new medications, except 
cetirizine, which she has been taking only rarely as needed." On 
repeat phone call, she had had no further episodes of memory 
lapses or slurring of speech, and the patient thought she had 
taken extra Keppra by accident. 

She was then seen in clinic by Dr. ___ in ___. At 
that time, she noted minor memory lapses. For example, she had 
the same text conversation twice. She did not recall prior 
appointments. Her mother notices that she is repeating herself 
frequently. She also reported two episodes of LOC in the week 
prior to the visit; one occurred at work, and she had no 
recollection of this. One was witnessed by her mother; "she was
doing a crossword puzzle and talking to her, then was trying to
text someone, then got groggy, then 'went out', and had some
shaking of her arms. She was also slurring her speech during the
last week. Her texts were coming out garbled. Her mother agrees
this is improving. She has not identified any triggers. She
does not know if she was taking her levetiracetam correctly but
cannot guarantee that she was not doubling her medication or
missing medications." On exam, memory for recent and remote 
events was intact, and neurologic exam was otherwise normal. Dr. 
___ that memory lapses were most consistent with 
seizures rather than medication effect; a plan was made to check 
labs (CBC, chem10, TSH, Keppra level--not done) and start 
lamotrigine (with plan to titrate Keppra off once lamotrigine 
therapeutic). Uptitration schedule of LTG: 25mg daily x 2 weeks, 
50mg daily x 2 weeks, then 50mg BID x 2 weeks. 

Mother ___ denies that there was any usual behavior prior to 
events as above. No episodes of LOC since LTG increase as above.

Per prior notes:
"Ms. ___ was first diagnosed with epilepsy in ___
after a presumed electrocution injury with subsequent seizure.
The had three additional events concerning for seizure shortly
afterwards and was started on Keppra 500mg BID at an outside
hospital. On initial clinic visit on ___, Keppra
was increased to 1000mg BID as she had breathrough events 
despite
the initial Keppra dose. Her seizures were characterized by
falling to the ground, losing consciousness, rigidity and
rhythmic shaking with half-open fluttering eyes. There was no
tongue biting or bowel or bladder incontinence." In ___, after this event, she called in to the clinic and Keppra 
was reportedly increased from 1gm BID to 1gm qAM and 1.5gm qPM 
(although she is currently only on 1g BID). Medications adjusted 
again in ___ as above. 

 
Past Medical History:
ALLERGIC RHINITIS                                               
ANXIETY                                                         
ASTHMA                                                          
ATTENTION DEFICIT DISORDER                                      
HERPES ZOSTER                                                   
HYPERCHOLESTEROLEMIA                                            
MIGRAINE HEADACHES                                              
OVARIAN CYSTS                                                   
s/p lap ovarian cystectomy                                      
RECURRENT URINARY TRACT INFECTION                               
s/p cystoscopy + urethral dilatation                            
SEIZURE DISORDER                                                
FIBROMYALGIA  
 
Social History:
___
Family History:
Maternal uncle with seizures as child  
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: no WOB
Cardiac: WWP
Abdomen: ND
Extremities: No C/C/E bilaterally

Neurologic:
-Mental Status: Alert/awake, oriented to person/place/date. Able 
to relate history with some difficulty (got certain dates and 
details wrong, as verified in notes). Attentive, able to name 
___ backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name both high and low 
frequency objects (used stroke card). Able to read without 
difficulty (used stroke card). Speech was not dysarthric. Able 
to follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. Initially inaccurate in RUQ ___ 
tries with right eye closed, ___ tries with left eye closed) but 
then fields normal with red pin testing.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting with arm roll. No adventitious movements, such as 
tremor, noted. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5
Others tested: FFl, EDB

-Sensory: No deficits to light touch

-DTRs: ___ more brisk in RUE than LUE, mildly brisk at 
bilateral patellas, normal at ankles. No spread, no crossed 
adductors, no suprapatellars, no clonus, toes down.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

 
Pertinent Results:
___ 05:20PM BLOOD WBC-10.1* RBC-4.62 Hgb-13.7 Hct-40.1 
MCV-87 MCH-29.7 MCHC-34.2 RDW-11.9 RDWSD-37.8 Plt ___
___ 05:15AM BLOOD WBC-9.4 RBC-4.58 Hgb-13.6 Hct-40.3 MCV-88 
MCH-29.7 MCHC-33.7 RDW-12.0 RDWSD-38.7 Plt ___
___ 05:20PM BLOOD Glucose-79 UreaN-4* Creat-0.5 Na-142 
K-3.9 Cl-102 HCO3-23 AnGap-21*
___ 05:15AM BLOOD Glucose-90 UreaN-8 Creat-0.7 Na-139 K-4.4 
Cl-102 HCO3-26 AnGap-15
___ 05:20PM BLOOD ALT-14 AST-16 AlkPhos-61 TotBili-0.3
___ 05:20PM BLOOD Albumin-4.3 Calcium-9.2 Phos-3.8 Mg-1.7
___ 05:15AM BLOOD Calcium-9.3 Phos-5.1* Mg-2.5
___ 05:20PM BLOOD TSH-0.78
___ 05:20PM BLOOD Ammonia-<10
___ 05:20PM BLOOD VitB12-410
___ 05:20PM BLOOD CRP-1.3
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:59PM URINE Color-Straw Appear-Clear Sp ___
___ 03:59PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 03:59PM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

EEG ___
IMPRESSION: This is a mildly abnormal continuous EEG because of 
frequent 
bursts of generalized slowing indicative of mild deep midline or 
subcortical dysfunction, which is etiologically nonspecific. 
There are no pushbutton activations. No focal abnormalities or 
epileptiform discharges are present. No electrographic seizures 
are recorded. 

EEG ___
IMPRESSION: This is a mildly abnormal continuous EEG because of 
frequent 
bursts of generalized slowing indicative of mild deep midline or 
subcortical dysfunction, which is etiologically nonspecific. 
There is one pushbutton activation for intermittent right arm 
tremors without electrographic correlate. There is an additional 
pushbutton activation for headache also without electrographic 
correlate. No focal abnormalities or epileptiform discharges are 
present. No electrographic seizures are recorded. 

 
Brief Hospital Course:
___ was admitted to the hospital after having events 
at home concerning for focal dyscognitive seizures, vs AED 
toxicity vs mood disorder. She denied using excessive tramadol 
at home, and toxic/metabolic/infectious screen was negative. She 
was monitored on EEG for >48 hours. The pushbutton events that 
were captured on EEG included arm shaking and headache and did 
not correlate with electrographic seizures. AED levels are 
pending at time of discharge, but she did not have clinical 
signs of toxicity or lethargy. Her medications were not changed. 
Due to her significant psychosocial stressors, we offered input 
from social work, but she was not agreeable to this. She was 
overall not open for exploration of these factors and she may be 
more amenable to explore this in the outpatient environment. She 
was discharged with plan for outpatient ambulatory EEG. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
2. ALPRAZolam 0.5-1 mg PO QHS:PRN insomnia 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
4. flunisolide 25 mcg (0.025 %) nasal BID 
5. FoLIC Acid 1 mg PO DAILY 
6. LamoTRIgine 50 mg PO BID 
7. LevETIRAcetam 1000 mg PO BID 
8. Meclizine 25 mg PO TID 
9. Montelukast 10 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. TraMADol 50 mg PO TID:PRN BREAKTHROUGH PAIN 
12. Cetirizine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  albuterol sulfate 90 mcg/actuation inhalation QID:PRN  
2.  ALPRAZolam 0.5-1 mg PO QHS:PRN insomnia  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  flunisolide 25 mcg (0.025 %) nasal BID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  LamoTRIgine 50 mg PO BID  
7.  LevETIRAcetam 1000 mg PO BID  
8.  Meclizine 25 mg PO TID  
9.  Montelukast 10 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
12.  TraMADol 50 mg PO TID:PRN BREAKTHROUGH PAIN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after several events 
concerning for seizure. You were monitored on EEG and the push 
button events did not correlate with electrographical seizures.
On discharge, no changes to your medication was made. You will 
have an outpatient ambulatory EEG.
Please take all of your medications as directed and do not miss 
doses. You are required by law not to drive for 6 months 
following the last event concerning for seizure, on ___. 
Please abstain from operating heavy machinery or swimming by 
yourself.

Please follow up with your neurologist on discharge.

It was a pleasure taking care of you. We wish you all the best.

___ Care Team
 
Followup Instructions:
___